US07655666B2
2-Acetylamino-5-[1-(ethoxycarbonyl-hydrazono)-ethyl]-4-trifluoromethyl-benzoic acid methyl ester
In a round bottom flask fitted with a Dean-Stark, a solution of 5-acetyl-2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester (2.384 g, 7.86 mmol) in toluene (16 mL) was treated with ethylcarbazate (2.61 g, 25 mmol) followed by p-toluenesulfonamide (103 mg, 0.60 mmol). The reaction was stirred at 150° C. for 40 h. The solvent was removed by distillation and the residue was purified by flash column chromatography (silica gel, 1:1 EtOAc/hexanes) to give the title compound (1.24 g, 40%). API-ES: m/z 390.1 [M+H]+, rt 4.14 min, 4.20 min: mixture of cis and trans.

reactant | 5-acetyl-2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester | 7.86 mmol, 2.384 g | COC(C1=C(C=C(C(=C1)C(C)=O)C(F)(F)F)NC(C)=O)=O | C13H12F3NO4
reactant | ethylcarbazate | 25 mmol, 2.61 g | C(C)OC(NN)=O | C3H8N2O2
reactant | p-toluenesulfonamide | 0.60 mmol, 103 mg | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Acetylamino-5-[1-(ethoxycarbonyl-hydrazono)-ethyl]-4-trifluoromethyl-benzoic acid methyl ester | 1.24 g, 40% | COC(C1=C(C=C(C(=C1)C(C)=NNC(=O)OCC)C(F)(F)F)NC(C)=O)=O | C16H18F3N3O5
